US05770598
3,4-Dimethyl-2-[3-(4-pyridyl)-1,2,4-oxadiazol-5-yl]pyrrolo[3,2-b]carbazole
3,4-Dimethylpyrrolo[3,2-b]carbazole-2-carboxylic acid (0.556 g, 2 mmol), (prepared as described in WO93/01512) and carbonyl diimidazole (0.37 g, 2.2 mmol) were dissolved in freshly distilled tetrahydrofuran (10 ml) in an oven-dried flask under a nitrogen atmosphere. The resulting orange solution was stirred at room temperature for 2 hours, by which time it was an orange suspension, and complete conversion of the acid to the imidazolide intermediate was verified by TLC. Meanwhile, in a second oven-dried flask, 4-pyridylamidoxime (0.557 g, 4.1 mmol) was dissolved in THF (20 ml). To this was added crushed 3 Å sieves (0.66 g) and the mixture was stirred at room temp for 1 hour. Sodium hydride (60% dispersion in mineral oil, 0.161 g, 4 mmol) was added and the mixture stirred for a further 1 hour. The contents of the two flasks were combined and stirred at room temp for 18 hours, by which time TLC showed complete consumption of the imidazolide intermediate. The yellow precipitate which had formed was filtered off and taken up into hot DMSO. This was filtered and water was added. On cooling, yellow crystals of the title compound formed, were filtered off and dried (vacuum oven/85° C.) (0.265 g, 35%) m.p. >300° C. (decomp.) (Found: C, 71.37; H, 4.49; N, 17.94. C23H17N5O.0.4H2O requires: C, 71.45; H, 4.64; N, 18.11%); δH [2H6 ]-DMSO 11.85 (1H, s, 1-NH), 10.70 (1H, s, 5-NH), 8.17 and 8.05 (4H, AB quart, J 5.5, pyridine), 8.13 (1H, d, J 7.5, 9-H), 7.95 (1H, s, 10-H), 7.48-7.32 (2H, m, 6-H, 7-H), 7.10 (1H, ddd, J 7.5, 5.5, 2, 8-H), 3.08 and 2.95 (2×3H, 2×s, 3-CH3 and 4-CH3); m/z (%) 379 (5, M+), 259 (42), 224 (61), 193 (100); νmax (KBr disc)/cm-1 3439, 3244, 1610, 1500, 1414, 1371, 1311, 1242.

reactant | 3,4-Dimethylpyrrolo[3,2-b]carbazole-2-carboxylic acid | 2 mmol, 0.556 g | CC=1C(=NC=2C1C(=C1N=C3C=CC=CC3=C1C2)C)C(=O)O | C17H12N2O2
reactant | carbonyl diimidazole | 2.2 mmol, 0.37 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | imidazolide | [N-]1C=NC=C1
reactant | Sodium hydride | 4 mmol, 0.161 g | [H-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3,4-Dimethyl-2-[3-(4-pyridyl)-1,2,4-oxadiazol-5-yl]pyrrolo[3,2-b]carbazole | CC=1C(=NC=2C1C(=C1N=C3C=CC=CC3=C1C2)C)C2=NC(=NO2)C2=CC=NC=C2 | C23H15N5O
